US07238716B2
A mixture of 4-chloromethyl-2-phenyl-5-propyloxazole (2.26 g), 4-hydroxybenzaldehyde (1.33 g), anhydrous potassium carbonate (1.76 g) and N,N-dimethylformamide (50 mL) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water, and the precipitated solid was collected by filtration and dried with air to give crystals (2.75 g, 89%) of 4-[(2-phenyl-5-propyl-4-oxazolyl)methoxy]benzaldehyde. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 76-77° C.

reactant | 4-chloromethyl-2-phenyl-5-propyloxazole | 2.26 g | ClCC=1N=C(OC1CCC)C1=CC=CC=C1 | C13H14ClNO
reactant | 4-hydroxybenzaldehyde | 1.33 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[(2-phenyl-5-propyl-4-oxazolyl)methoxy]benzaldehyde | 2.75 g, 89% | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=O)C=C1)CCC | C20H19NO3
